US06423699B1
1-Benzyl-6-(3-nitro-phenyl)-1,3-dihydro-benzoimidazol-2-one
Prepared from 1-benzyl-6-bromo-1,3-dihydro-benzoimidazol-2-one and 3-nitro-phenyl boronic acid in the same fashion as that of Example 5. White solid: mp 202-203° C.; 1H-NMR (DMSO-d6) δ 11.2 (s, 1H), 8.38 (t, 1H, J=1.97 Hz), 8.15 (dd, 1H, J=7.83, 1.97 Hz), 8.80 (d, 1H, J=7.83 Hz), 7.72 (t, 1H, J=7.83 Hz), 7.56 (bs, 1H), 7.43-7.22 (m, 6H), 7.13 (d, 1H, J=7.83 Hz), 5.1 (s, 2H); MS (ES) m/z 344([M−H]−, 100%); Anal. Calc. For C20H15N3O3 0.25 H2O: C, 68.66, H, 4.46, N, 12.01. Found: C, 68.42, H, 4.44, N, 11.77.

reactant | 1-benzyl-6-bromo-1,3-dihydro-benzoimidazol-2-one | C(C1=CC=CC=C1)N1C(NC2=C1C=C(C=C2)Br)=O | C14H11BrN2O
reactant | 3-nitro-phenyl boronic acid | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
product | 1-Benzyl-6-(3-nitro-phenyl)-1,3-dihydro-benzoimidazol-2-one | C(C1=CC=CC=C1)N1C(NC2=C1C=C(C=C2)C2=CC(=CC=C2)[N+](=O)[O-])=O | C20H15N3O3
